US08283353B2
4-[1-(4-hydroxyphenyl)piperidin-4-yl]-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of hydroxylammonium chloride (344 mg), sodium hydrogen carbonate (554 mg) and dimethyl sulfoxide (3 mL) was stirred at 60° C. for 30 min, 4′-({4-[1-(4-hydroxyphenyl)piperidin-4-yl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (180 mg) was added, and the mixture was stirred at 90° C. for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (3 mL). N,N′-Carbonyldiimidazole (65 mg) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (61 mg) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=70/30→45/55 (volume ratio)] and crystallized from a mixture of ethyl acetate and diisopropyl ether to give the title compound as colorless crystals (72 mg, 36%).

reactant | hydroxylammonium chloride | 344 mg | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 554 mg | C(O)([O-])=O.[Na+]
reactant | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
reactant | 4′-({4-[1-(4-hydroxyphenyl)piperidin-4-yl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 180 mg | OC1=CC=C(C=C1)N1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C33H32N6O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[1-(4-hydroxyphenyl)piperidin-4-yl]-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 72 mg, 36% | OC1=CC=C(C=C1)N1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2 | C34H33N7O4
